US08486970B2
To a solution of 323 mg of (3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}-1,2,4-oxadiazol-5-yl)methyl acetate in 6.5 ml of methanol was added 66 mg of potassium carbonate, followed by stirring at room temperature for 3 hours. To the reaction solution was added ethyl acetate, followed by washing with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and then recrystallized from ethyl acetate to obtain 157 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[5-(hydroxymethyl)-1,2,4-oxadiazol-3-yl]methoxy}-2-{(1SR,2SR)-2-(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}-1,2,4-oxadiazol-5-yl)methyl acetate | 323 mg | C(C)(=O)OCC1=NC(=NO1)CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C29H31Cl2N5O8S
reactant | potassium carbonate | 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 6.5 ml | CO | CH4O
product | 1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | O=C1NCC(C2=CC=CC=C12)C(=O)N | C10H10N2O2
